### PR TITLE
[Merged by Bors] - feat: valuation on RatFunc which is trivial on constants

### PR DESCRIPTION
**Pull request by xgenereux**
Given a valuation `v` on `RatFunc K` that is trivial on the constants `K`, the valuation on `RatFunc.X` determines to some degree the valuation on any `p : Polynomial K`.

These are important in the context of Ostrowski's theorem for `RatFunc K`.
Note that the condition that the valuation is trivial on constants is automatically fulfilled when `K` is finite.

Co-authored-by: María Inés de Frutos Fernández <[mariaines.dff@gmail.com](mailto:mariaines.dff@gmail.com)>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 1]
```diff
@@ -207,6 +210,61 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+section TrivialOnConstants
+
+variable {Γ : Type*} [LinearOrderedCommMonoidWithZero Γ] {v : Valuation (RatFunc K) Γ}
+
+open Valuation
+
+/--
+If a valuation is trivial on constants then the valuation of `(monomial n a)` is equal
+to `(v (RatFunc.X)) ^ n`. -/
+lemma valuation_monomial_eq_valuation_X_pow
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:224]: I think this is true also for integer powers. But even more: since `K` is a field, all elements from `K` are units (both in `K` and in `K[X]`), right?

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 2]
```diff
@@ -207,6 +210,61 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+    (hv : ∀ a : K, a ≠ 0 → v (algebraMap K (RatFunc K) a) = 1) (n : ℕ) {a : K} (ha : a ≠ 0) :
+    v (monomial n a) = v RatFunc.X ^ n := by
+  have h : algebraMap _ (RatFunc K) (C a) = algebraMap _ _ a := rfl
+  simp only [RatFunc.coePolynomial, ← C_mul_X_pow_eq_monomial, _root_.map_mul, _root_.map_pow,
+    RatFunc.algebraMap_X, h, hv a ha, one_mul]
+
+/--
+If a valuation is trivial on constants and `1 < v RatFunc.X` then
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:232]:
```suggestion
If a valuation is trivial on constants and `1 < v RatFunc.X` then for every polynomial `p`,
```

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 3]
```diff
@@ -207,6 +210,61 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+`v p = v RatFunc.X ^ p.natDegree`. -/
+theorem valuation_eq_valuation_X_pow_natDegree_of_one_lt_valuation_X
+    [Nontrivial Γ] [PosMulStrictMono Γ] (hlt : 1 < v RatFunc.X)
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:235]: `hlt` seems a strange assumption, the "usual"  valuation of `X` is `< 1`...

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 4]
```diff
@@ -207,6 +210,61 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+  simp_all only [ne_eq, RatFunc.algebraMap_eq_C, ← C_mul_X_pow_eq_monomial, _root_.map_mul,
+    RatFunc.algebraMap_C, _root_.map_pow, RatFunc.algebraMap_X, coeff_natDegree,
+    leadingCoeff_eq_zero, not_false_eq_true, one_mul, gt_iff_lt]
+  by_cases h0 : (p.coeff i) = 0
+  · simp only [h0, _root_.map_zero, zero_mul, one_mul]
+    exact pow_pos (lt_trans zero_lt_one hlt) p.natDegree
+  simp only [h _ h0, one_mul, pow_lt_pow_right₀ hlt hi]
+
+/--
+If a valuation is trivial on constants and `v RatFunc.X ≤ 1` then `v p ≤ 1`. -/
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:254]: Same comment as above both about the inequality and the docs (add "polynomial").

**Review by faenuccio — COMMENTED** [review]
Two general questions:
1. Is there some result you have in mind? I am not sure to see the interest of these theorems.
1. Your assumption `hv` could probably benefit from the recent PR #23726: have you had a look at it?

**Comment by mariainesdff** [comment]
Hi @faenuccio, thanks for reviewing!
>     1. Is there some result you have in mind? I am not sure to see the interest of these theorems.

These are auxiliary results that we use in our proof of Ostrowski's theorem for Fq(X).

>     2. Your assumption `hv` could probably benefit from the recent PR [[Merged by Bors] - feat(RingTheory/Valuation/Basic): defined Nontrivial valuations #23726](https://github.com/leanprover-community/mathlib4/pull/23726): have you had a look at it?

How would you suggest we state it using `Nontrivial`? Our `hv` says that the valuation should be trivial on the constant field.

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:224]: I am not sure what you mean. It is certainly true that `v (a * X ^ n) = v (X ^ n)` for integer `n` and nonzero `a : K`, since we are assuming that `v` is trivial on constant.
However, the point of this lemma is to use it as an auxiliary result for the following lemmas about valuation of polynomials.

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:233]: Ohhh, I see! I'd probably add a line of doc saying that "the condition `hlt` is typically satisfied by the valuation at infinity" (or something like this), but beyond that you can ignore this comment.

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean (hunk 1 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:223]: Forget my comments about all elements from `K` being units (true but perfectly useless). On the other hand, if it is not too expensive, cannot you make both a `pow` and a `zpow` lemma?

**Comment by faenuccio** [comment]
> Hi @faenuccio, thanks for reviewing!
> 
> > ```
> > 1. Is there some result you have in mind? I am not sure to see the interest of these theorems.
> > ```
> 
> These are auxiliary results that we use in our proof of Ostrowski's theorem for Fq(X).
> 
> > ```
> > 2. Your assumption `hv` could probably benefit from the recent PR [[Merged by Bors] - feat(RingTheory/Valuation/Basic): defined Nontrivial valuations #23726](https://github.com/leanprover-community/mathlib4/pull/23726): have you had a look at it?
> > ```
> 
> How would you suggest we state it using `Nontrivial`? Our `hv` says that the valuation should be trivial on the constant field.

Thanks for both answers: I had not at all imagined that you were thinking about Ostrowski for Fq(X), and I now see it in the PR description. Makes perfect sense, I am sorry. As for the second, forget it: I had misunderstood the assumption.

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean (hunk 1 above)
Comment (Louddy) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:223]: What kind of lemma for `zpow` do you have in mind? We have something that has that flavor later in our proof when we go to rational functions but this result is talking about `Polynomial`.

Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:223]: Something along the lines of  " if a valuation is trivial on constants, then the valuation of `1/monomial a n` (as element of the field of rat functions) is `v X^(-n)`.

Comment (Louddy) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]: Sure! done :)

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 5]
```diff
@@ -214,24 +214,33 @@ end HeightOneSpectrum
...
 open Valuation
 
 /-- If a valuation `v` is trivial on constants then for every `n : ℕ` the valuation of
-`(monomial n a)` is equal to `(v (RatFunc.X)) ^ n`. -/
-lemma valuation_monomial_eq_valuation_X_pow
-    (hv : ∀ a : K, a ≠ 0 → v (algebraMap K (RatFunc K) a) = 1) (n : ℕ) {a : K} (ha : a ≠ 0) :
-    v (monomial n a) = v RatFunc.X ^ n := by
+`(monomial n a)` is equal to `(v RatFunc.X) ^ n`. -/
+lemma valuation_monomial_eq_valuation_X_pow [LinearOrderedCommMonoidWithZero Γ]
+    {v : Valuation (RatFunc K) Γ} (hv : ∀ a : K, a ≠ 0 → v (algebraMap K (RatFunc K) a) = 1)
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:224]: Here and everywhere else, isn't it better to replace `algebraMap K _ a` by `RatFunc.C a` (or even just `C a` if `RatFunc` is open)?

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 6]
```diff
@@ -262,7 +261,7 @@ theorem valuation_eq_valuation_X_pow_natDegree_of_one_lt_valuation_X
 /-- If a valuation `v` is trivial on constants and `v RatFunc.X ≤ 1` then `for every polynomial `p`,
 `v p ≤ 1`. -/
 theorem valuation_le_one_of_valuation_X_le_one [LinearOrderedCommMonoidWithZero Γ]
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:263]: Don't you want to make `LinearOrderedCommMonoidWithZero \Gamma` a global variable?

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 7]
```diff
@@ -242,8 +240,9 @@ Note: The condition `1 < v RatFunc.X` is typically satisfied by the valuation at
 theorem valuation_eq_valuation_X_pow_natDegree_of_one_lt_valuation_X
     [LinearOrderedCommMonoidWithZero Γ] {v : Valuation (RatFunc K) Γ}
     [Nontrivial Γ] [PosMulStrictMono Γ] (hlt : 1 < v RatFunc.X)
-    (h : ∀ a : K, a ≠ 0 → v (algebraMap K (RatFunc K) a) = 1) {p : Polynomial K} (hp : p ≠ 0) :
+    (h : ∀ a : K, a ≠ 0 → v (C a) = 1) {p : Polynomial K} (hp : p ≠ 0) :
```
[the remark this answers is not in the document]
Comment (Louddy) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]: Sorry about that one. Fixed!

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean (hunk 6 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:263]: I am not with VSCode now, I am sorry. I just observe that many of your new lemmas assume this, and you repeat that piece of code everywhere. So I was wondering if you don't want to structure the global `variables` in a different way so that you can just type this once. But feel free to answer "I tried, but I don't think so".

Comment (Louddy) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:263]: I could do it no problem, by putting the `zpow` lemma `valuation_inv_monomial_eq_valuation_X_zpow` in another section. I am just asking whether this is what we want as the `zpow` lemma won't be right next to the `npow` lemma anymore.

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 8]
```diff
@@ -207,6 +210,76 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+  apply map_sum_le v
+  intro i _
+  by_cases h0 : p.coeff i = 0
+  · simp_all
+  · rw [← RatFunc.coePolynomial]
+    simp_all [valuation_monomial_eq_valuation_X_pow, pow_le_one']
+
+end LinearOrderedCommMonoidWithZero
+
+section LinearOrderedCommGroupWithZero
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:268]: I think that there is no need for this new section: since it contains a unique lemma, you can close the previous one and simply add the variable `[LinearOrderedCommGroupWithZero Γ]` to the lemma below.

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 9]
```diff
@@ -207,6 +210,76 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+    ← lt_iff_le_and_ne] at hi
+  simp_all only [ne_eq, RatFunc.algebraMap_eq_C, ← C_mul_X_pow_eq_monomial, _root_.map_mul,
+    RatFunc.algebraMap_C, _root_.map_pow, RatFunc.algebraMap_X, coeff_natDegree,
+    leadingCoeff_eq_zero, not_false_eq_true, one_mul, gt_iff_lt]
+  by_cases h0 : (p.coeff i) = 0
+  · simp only [h0, _root_.map_zero, zero_mul, one_mul]
+    exact pow_pos (lt_trans zero_lt_one hlt) p.natDegree
+  simp only [h _ h0, one_mul, pow_lt_pow_right₀ hlt hi]
+
+/-- If a valuation `v` is trivial on constants and `v RatFunc.X ≤ 1` then `for every polynomial `p`,
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:254]:
```suggestion
/-- If a valuation `v` is trivial on constants and `v RatFunc.X ≤ 1` then for every polynomial `p`,
```

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 10]
```diff
@@ -207,6 +210,76 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+`v p ≤ 1`. -/
+theorem valuation_le_one_of_valuation_X_le_one (h : ∀ a : K, a ≠ 0 → v (C a) = 1)
+    (hle : v RatFunc.X ≤ 1) (p : K[X]) : v p ≤ 1 := by
+  rw [as_sum_range p, RatFunc.coePolynomial, map_sum]
+  apply map_sum_le v
+  intro i _
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:260]:
```suggestion
  intro i
```

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 11]
```diff
@@ -207,6 +210,76 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+  intro i hi
+  simp only [Finset.mem_sdiff, Finset.mem_range, Finset.mem_singleton, Nat.lt_add_one_iff,
+    ← lt_iff_le_and_ne] at hi
+  simp_all only [ne_eq, RatFunc.algebraMap_eq_C, ← C_mul_X_pow_eq_monomial, _root_.map_mul,
+    RatFunc.algebraMap_C, _root_.map_pow, RatFunc.algebraMap_X, coeff_natDegree,
+    leadingCoeff_eq_zero, not_false_eq_true, one_mul, gt_iff_lt]
+  by_cases h0 : (p.coeff i) = 0
+  · simp only [h0, _root_.map_zero, zero_mul, one_mul]
+    exact pow_pos (lt_trans zero_lt_one hlt) p.natDegree
+  simp only [h _ h0, one_mul, pow_lt_pow_right₀ hlt hi]
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:252]:
```suggestion
  · simpa [h0, _root_.map_zero, zero_mul, one_mul] using pow_pos (lt_trans zero_lt_one hlt) _
  simp [h _ h0, one_mul, pow_lt_pow_right₀ hlt hi]
```
it is better to avoid squeezing terminal `simp` to `simp only`.

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 12]
```diff
@@ -207,6 +210,76 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+`v p = v RatFunc.X ^ p.natDegree`.
+
+Note: The condition `1 < v RatFunc.X` is typically satisfied by the valuation at infinity. -/
+theorem valuation_eq_valuation_X_pow_natDegree_of_one_lt_valuation_X [Nontrivial Γ]
+    [PosMulStrictMono Γ] (hlt : 1 < v RatFunc.X) (h : ∀ a : K, a ≠ 0 → v (C a) = 1) {p : K[X]}
+    (hp : p ≠ 0) : v p = v RatFunc.X ^ p.natDegree := by
+  replace h : ∀ a : K, a ≠ 0 → v (RatFunc.C a) = 1 := h
+  rw [RatFunc.coePolynomial,
+    ← valuation_monomial_eq_valuation_X_pow _ h _ (leadingCoeff_ne_zero.mpr hp)]
+  nth_rw 1 [as_sum_range p, map_sum]
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean:241]:
```suggestion
  nth_rw 1 [RatFunc.coePolynomial, ← valuation_monomial_eq_valuation_X_pow _ h _
    (leadingCoeff_ne_zero.mpr hp), as_sum_range p, map_sum]
```

**Review by faenuccio — COMMENTED** [review]
I added a couple of comments, but it basically LGTM.

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 13]
```diff
@@ -207,6 +210,96 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
 
+end HeightOneSpectrum
+
+section TrivialOnConstants
+
+variable {Γ : Type*}
+
+section LinearOrderedCommMonoidWithZero
+
+variable [LinearOrderedCommMonoidWithZero Γ]
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]: Since you're taking valuations on fields, I would rather assume that Γ is a GroupWZ, and then you can remove the assumption `PosMulStrictMono Γ` thanks to https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/GroupWithZero/Canonical.html#LinearOrderedCommGroupWithZero.toPosMulStrictMono

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 14]
```diff
@@ -207,6 +210,96 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+variable (L : Type*) [Field L] [Algebra K L] {v : Valuation L Γ}
+
+lemma valuation_aeval_monomial_eq_valuation_pow
+    (w : L) (n : ℕ) {a : K}
+    (hv : ∀ a : K, a ≠ 0 → v (algebraMap K L a) = 1)
+    (ha : a ≠ 0) : v ((monomial n a).aeval w) = (v w) ^ n := by
+  simp [← C_mul_X_pow_eq_monomial, map_mul, map_pow, one_mul, RatFunc.algebraMap_X, hv a ha]
+
+theorem valuation_aeval_eq_valuation_X_pow_natDegree_of_one_lt_valuation_X [Nontrivial Γ]
+    [PosMulStrictMono Γ] (w : L) (hpos : 1 < v w) (hv : ∀ a : K, a ≠ 0 → v (algebraMap K L a) = 1)
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]: Can't you make this `(hv : ∀ a : K, a ≠ 0 → v (algebraMap K L a) = 1)` assumption global (at least in this Algebra section, but actually you also keep on repeating it after you close it)?

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 15]
```diff
@@ -207,6 +210,96 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+    {p : Polynomial K} (hp : p ≠ 0) : v (p.aeval w) = v w ^ p.natDegree := by
+  rw [← valuation_aeval_monomial_eq_valuation_pow _ _ _ _ hv ((leadingCoeff_ne_zero).mpr hp)]
+  nth_rw 1 [as_sum_range p, map_sum]
+  apply Valuation.map_sum_eq_of_lt _ (by simp) (by
+    replace hpos := Right.one_le_pow_of_le (hpos.le) (n := p.natDegree)
+    aesop)
+  intro i hi
+  simp only [Finset.mem_sdiff, Finset.mem_range, Finset.mem_singleton, Nat.lt_add_one_iff,
+    ← lt_iff_le_and_ne] at hi
+  simp_all only [ne_eq, RatFunc.algebraMap_eq_C, ← C_mul_X_pow_eq_monomial, map_mul,
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]: I am not on VSCode now, so this sequence of `simp` followed by `simp_all` seems strange, but there might be good reason (and ignore this comment in this case).

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 16]
```diff
@@ -207,6 +210,96 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+
+end Algebra
+
+variable {v : Valuation (RatFunc K) Γ}
+
+open Valuation
+
+/-- If a valuation `v` is trivial on constants then for every `n : ℕ` the valuation of
+`(monomial n a)` is equal to `(v RatFunc.X) ^ n`. -/
+lemma valuation_monomial_eq_valuation_X_pow (hv : ∀ a : K, a ≠ 0 → v (C a) = 1) (n : ℕ) {a : K}
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]: See my comment above concerning `(hv : ∀ a : K, a ≠ 0 → v (algebraMap K L a) = 1)`.

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 17]
```diff
@@ -207,6 +210,96 @@ theorem valuation_of_mk (f : Polynomial K) {g : Polynomial K} (hg : g ≠ 0) :
...
+    (ha : a ≠ 0) : v (monomial n a) = v RatFunc.X ^ n := by
+  simp_all [RatFunc.coePolynomial, ← C_mul_X_pow_eq_monomial]
+
+/-- If a valuation `v` is trivial on constants and `1 < v RatFunc.X` then for every polynomial `p`,
+`v p = v RatFunc.X ^ p.natDegree`.
+
+Note: The condition `1 < v RatFunc.X` is typically satisfied by the valuation at infinity. -/
+theorem valuation_eq_valuation_X_pow_natDegree_of_one_lt_valuation_X [Nontrivial Γ]
```
Comment (faenuccio) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]: You don't need `Nontrivial Γ`, I suppose, since it is a `WithZero` thing. Moreover, as above, if you upgrade it to a `GroupWZ` you won't need `PosMulStrictMono`.

**Review by faenuccio — COMMENTED** [review]
I left a couple of more comments.

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean (hunk 14 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]: I changed this (but note that there are two different `hv`: one in the `Algebra` section, which refers to a valuation on `L`, and one later that refers to a valuation on `K`).

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean (hunk 15 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]: I golfed this to avoid the `simp_all`.

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean (hunk 13 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]: Done.

**Comment by faenuccio** [comment]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by riccardobrasca** [comment]
Can you please fix the error?

bors d+

**Comment by riccardobrasca** [comment]
Can you please fix the error?

bors d+
